US05932606
Step D: Trans-1-trityl-4-imidazoleacrylic acid methyl ester
To a solution of trans-4-imidazoleacrylic acid methyl ester hydrochloride (20.0 g, 106 mmol) and triethylamine (44 ml, 318 mmol) in chloroform (500 ml) was added a solution of trityl chloride (29.5 g, 318 mmol) in chloroform (100 ml). The resulting suspension was stirred at room temperature for 24 h. The reaction mixture was then washed with water and dried over MgSO4. Filtration and removal of the solvent in vacuo to gave the title compound as a tan solid: 1H NMR (CDCl3) d 3.75 (s, 3 H), 6.54 (d, J=16 Hz, 1 H) 7.03 (s, 1 H), 7.13-7.34 (m, 15 H) 7.46 (s, 1 H), 7.51 (d, J=16 Hz 1 H).

reactant | trans-4-imidazoleacrylic acid methyl ester hydrochloride | 106 mmol, 20.0 g | Cl.COC(\C=C\C=1N=CNC1)=O
reactant | triethylamine | 318 mmol, 44 ml | C(C)N(CC)CC | C6H15N
reactant | trityl chloride | 318 mmol, 29.5 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | Trans-1-trityl-4-imidazoleacrylic acid methyl ester | COC(\C=C\C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C26H22N2O2
